US07074800B1
4-Chloro-6-methoxy-7-(2-piperidinoethoxy)quinazoline hydrochloride was suspended in methylene chloride (10 ml) and saturated aqueous sodium hydrogen carbonate solution (5 ml) then stirred vigorously for 10 minutes at ambient temperature. The layers were separated and the organic layer dried (MgSO4) then evaporated to give a white solid. This solid was triturated with methanol (2.5 ml), the resulting solid filtered off, washed with cold methanol and dried to give 4-chloro-6-methoxy-7-(2-piperidinoethoxy)quinazoline (0.36 g).

reactant | 4-Chloro-6-methoxy-7-(2-piperidinoethoxy)quinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCCCC1
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-6-methoxy-7-(2-piperidinoethoxy)quinazoline | 0.36 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCCCC1 | C16H20ClN3O2
